US08293768B2
Synthesis of 2-(5-hydroxy-2-oxo-3-(4-(trifluoromethyl)benzyl)imidazolidin-1-yl)-4-methyl-N-(pyridin-3-ylmethyl)thiazole-5-carboxamide
Following the procedure as described in Example 16, making variations as required to replace N-benzyl-2-(3-(2,2-dimethoxyethyl)-3-(4-fluorobenzyl)ureido)-4-methylthiazole-5-carboxamide with 2-(3-(2,2-dimethoxyethyl)-3-(4-(trifluoromethyl)-benzyl)ureido)-4-methyl-N-(pyridin-3-ylmethyl)thiazole-5-carboxamide, the title compound was obtained as a colorless solid in 98% yield: mp 171-172° C. (ethyl acetate/hexanes); 1H NMR (300 MHz, CDCl3) δ 8.45-8.42 (m, 2H), 7.69-7.62 (m, 2H), 7.57 (d, J=8.1 Hz, 2H), 7.34 (d, J=8.1 Hz, 2H), 7.27-7.22 (m, 1H), 6.08-6.05 (m, 1H), 4.56-4.37 (m, 4H), 3.65-6.59 (m, 1H), 3.33-3.25 (m, 1H), 2.51 (s, 3H); 13C NMR (75 MHz, CDCl3) δ 162.6, 157.1, 154.0, 153.1, 148.4, 139.4, 135.8, 135.0, 134.2, 130.1, 128.6, 125.9, 123.7, 121.8, 117.5, 50.2, 46.9, 41.4, 17.2; MS (ES+) m/z 492.2 (M+1).

reactant | N-benzyl-2-(3-(2,2-dimethoxyethyl)-3-(4-fluorobenzyl)ureido)-4-methylthiazole-5-carboxamide | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)NC(=O)N(CC1=CC=C(C=C1)F)CC(OC)OC)C | C24H27FN4O4S
reactant | 2-(3-(2,2-dimethoxyethyl)-3-(4-(trifluoromethyl)-benzyl)ureido)-4-methyl-N-(pyridin-3-ylmethyl)thiazole-5-carboxamide | COC(CN(C(NC=1SC(=C(N1)C)C(=O)NCC=1C=NC=CC1)=O)CC1=CC=C(C=C1)C(F)(F)F)OC | C24H26F3N5O4S
product | 2-(5-hydroxy-2-oxo-3-(4-(trifluoromethyl)benzyl)imidazolidin-1-yl)-4-methyl-N-(pyridin-3-ylmethyl)thiazole-5-carboxamide | 98% yield | OC1CN(C(N1C=1SC(=C(N1)C)C(=O)NCC=1C=NC=CC1)=O)CC1=CC=C(C=C1)C(F)(F)F | C22H20F3N5O3S
